US05414140
Preparation of CF3CF2CF2OCF(CF3)COCl
A mixture of AlCl3 and o-dichlorobenzene (4 mL) was treated with CF3CF2CF2OCF(CF3)COF (13.2 g, 40 mmol) and heated at 60° C. for 0.5 hr. Volatiles were removed by vacuum transfer (27 Pa) to give a mixture of two liquids. The lower layer was separated and distilled to provide 8.0 g of colorless liquid, bp ca. 65° C. GC analysis showed 99% purity. 19F NMR (F11): -81.32 (s, CF3), -81.94 (t, J=7.3 Hz, CF3), -79.05 and -84.98 (AB pattern, J=146 Hz, OCF2), -126.1 (d of m's, J=23, CF), -130.1 (s, CF2).

reactant | AlCl3 | [Al+3].[Cl-].[Cl-].[Cl-]
reactant | CF3CF2CF2OCF(CF3)COF | 40 mmol, 13.2 g | C(F)(F)(F)C(F)(F)C(F)(F)OC(F)(C(F)(F)F)C(=O)F | C6F12O2
solvent | o-dichlorobenzene | 4 mL | ClC1=C(C=CC=C1)Cl | C6H4Cl2
product | CF3CF2CF2OCF(CF3)COCl | 8.0 g | C(F)(F)(F)C(F)(F)C(F)(F)OC(F)(C(F)(F)F)C(=O)Cl | C6ClF11O2
